US04235976
α,β-bis-(methoxycarbonyl)-ethane-phosphonic acid dimethyl ester
20 ml of 5% sodium methylate solution are added dropwise to 144 g (1 mol) of dimethyl maleate and 110 g of dimethyl phosphite until the exothermic reaction is completed. The reaction mixture is stirred for a further 30 minutes at 100° C. and then freed from low volatility constituents.

reactant | dimethyl maleate | 1 mol, 144 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | dimethyl phosphite | 110 g | P(OC)(OC)[O-]
solvent | sodium methylate | 20 ml | C[O-].[Na+]
product | α,β-bis-(methoxycarbonyl)-ethane-phosphonic acid dimethyl ester | COP(OC)(=O)C(CC(=O)OC)C(=O)OC | C8H15O7P
